US08487108B2
To a solution of (S)-tert-butyl 4-((R)-2-(hydroxymethyl)pent-4-enyl)-2,2-dimethyloxazolidine-3-carboxylate (30 g, 100 mmol, 1 eq) in anhydrous THF (600 mL) was added NaH (60%, 16 g, 400 mmol, 4 eq) in portions at 0° C. The mixture was stirred for 10 min at 0° C., followed by the dropwise addition of allyl bromide (48 g, 400 mmol, 4 eq) over 15 min. After stirring for 30 min at 0° C., the mixture was allowed to warm to rt and stirred for 16 h. The reaction was quenched with aq. NH4Cl and the mixture was extracted with EA (3×). The combined organic layers were washed with brine, dried over Na2SO4, concentrated under reduced pressure to afford the crude product. It was purified by column chromatography on silica gel (PE:EA=100:1→60:1) to give (S)-tert-butyl 4-((R)-2-(allyloxymethyl)pent-4-enyl)-2,2-dimethyloxazolidine-3-carboxylate (26.15 g, 77.0%).

reactant | (S)-tert-butyl 4-((R)-2-(hydroxymethyl)pent-4-enyl)-2,2-dimethyloxazolidine-3-carboxylate | 100 mmol, 30 g, 1 eq | OC[C@@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)CC=C | C16H29NO4
reactant | NaH | 400 mmol, 16 g, 4 eq | [H-].[Na+]
reactant | allyl bromide | 400 mmol, 48 g, 4 eq | C(C=C)Br | C3H5Br
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 4-((R)-2-(allyloxymethyl)pent-4-enyl)-2,2-dimethyloxazolidine-3-carboxylate | 26.15 g, 77.0% | C(C=C)OC[C@@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)CC=C | C19H33NO4
